US07759483B2
A 1.0 g quantity of 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid (E-isomer: 9% by HPLCb)) was suspended in a solvent mixture of 2 ml of water and 5 ml of methanol in a four-necked 100-ml flask. With addition of 0.68 ml of dicyclohexylamine, the suspension was stirred until crystals separated out from a transparent solution subsequently formed. The reaction mixture was allowed to stand at room temperature for 15 minutes and thereafter stirred for 15 minutes, and 7 ml of acetone was then slowly added to the mixture. The resulting mixture was subsequently cooled in an ice bath for 2 hours, and the resulting crystals were filtered off, washed with acetone and dried, affording 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid dicyclohexylamine salt. While the filtration treatment in Examples was completed in about 1 minute, the filtration procedure in this comparative example required about 10 minutes.

reactant | 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)O)C1=O | C13H13N3O3S2
reactant | water | 2 ml | O | H2O
reactant | methanol | 5 ml | CO | CH4O
reactant | dicyclohexylamine | 0.68 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | acetone | 7 ml | CC(=O)C | C3H6O
product | 7-amino-3-[2-(4-methylthiazol-5-yl)vinyl]-3-cephem-4-carboxylic acid dicyclohexylamine salt | Yield: 57.0% | C1(CCCCC1)NC1CCCCC1.NC1[C@@H]2N(C(=C(CS2)C=CC2=C(N=CS2)C)C(=O)O)C1=O | InChI=1S/C13H13N3O3S2.C12H23N/c1-6-8(21-5-15-6)3-2-7-4-20-12-9(14)11(17)16(12)10(7)13(18)19;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h2-3,5,9,12H,4,14H2,1H3,(H,18,19);11-13H,1-10H2/t9?,12-;/m1./s1
